**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Bi-color Reverse Mount Waterclear
* Matchcode:              WL-SBRW
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-02-16
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1205_156125RB73000 1 2 3 4 
D1 3 2 Red
.MODEL Red D
+ IS=847.08E-21
+ N=1.8776
+ RS=.24355
+ IKF=626.05E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
D2 4 1 Blue
.MODEL Blue D
+ IS=291.54E-21
+ N=3.0354
+ RS=.38619
+ IKF=611.03E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
*********
.subckt 1205_156125RG73000 1 2 3 4 
D1 3 2 Red
.MODEL Red D
+ IS=847.08E-21
+ N=1.8776
+ RS=.24355
+ IKF=626.05E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
D2 4 1 Green
.MODEL Green D
+ IS=291.54E-21
+ N=3.0354
+ RS=.38619
+ IKF=611.03E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
*********
.subckt 1205_156125RV73000 1 2 3 4 
D1 3 2 Red
.MODEL Red D
+ IS=847.08E-21
+ N=1.8776
+ RS=.24355
+ IKF=626.05E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
D2 4 1 BGreen
.MODEL BGreen D
+ IS=10.010E-21
+ N=1.8766
+ RS=1.0000E-6
+ IKF=29.994E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
*********
.subckt 1205_156125YV73000 1 2 3 4 
D1 3 2 Yellow
.MODEL Yellow D
+ IS=847.08E-21
+ N=1.8776
+ RS=.24355
+ IKF=626.05E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
D2 4 1 BGreen
.MODEL BGreen D
+ IS=10.010E-21
+ N=1.8766
+ RS=1.0000E-6
+ IKF=29.994E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
*********
.subckt 1205_156125RG73000P 1 2 3 4 
D1 3 2 Red
.MODEL Red D
+ IS=847.08E-21
+ N=1.8776
+ RS=.24355
+ IKF=626.05E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
D2 4 1 Green
.MODEL Green D
+ IS=291.54E-21
+ N=3.0354
+ RS=.38619
+ IKF=611.03E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
*********
.subckt 1205_156125RV73000P 1 2 3 4 
D1 3 2 Red
.MODEL Red D
+ IS=847.08E-21
+ N=1.8776
+ RS=.24355
+ IKF=626.05E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
D2 4 1 BGreen
.MODEL BGreen D
+ IS=10.010E-21
+ N=1.8766
+ RS=1.0000E-6
+ IKF=29.994E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
*********
.subckt 1205_156125YV73000P 1 2 3 4 
D1 3 2 Yellow
.MODEL Yellow D
+ IS=847.08E-21
+ N=1.8776
+ RS=.24355
+ IKF=626.05E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
D2 4 1 BGreen
.MODEL BGreen D
+ IS=10.010E-21
+ N=1.8766
+ RS=1.0000E-6
+ IKF=29.994E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
*********























